US06077864
Added the O-benzylhydroxylamine·hydrochloric acid (0.387 grams, 2.43 mmol) to a stirred solution of 3-(4-methoxy-phenylsulfonyl-7-oxabicyclo[2.2.1]hept-5-ene-2-carboxylic acid in methylene chloride (5 ml). Added 4-dimethylaminopyridine (0.306 grams, 2.51 mmol) and stirred approximately one-half hour (until solids dissolved), then added the 1,3-dicyclohexylcarbodiimide (0.250 grams, 1.21 mmol) and stirred at room temperature overnight. The reaction was filtered through a pad of Celite and the filtrate concentrated in vacuo to give 1.06 grams of 3-(4-Methoxyphenylsulfonyl-7-oxabicyclo[2.2.1]heptane-2-carboxylic acid benzyloxyamide. Took this up in methanol and decanted filtrate from fine needle crystals. Concentration of filtrate gave 0.82 grams of 3-(4-Methoxyphenylsulfonyl-7-oxabicyclo[2.2.1]heptane-2-carboxylic acid benzyloxyamide.

reactant | O-benzylhydroxylamine·hydrochloric acid | 2.43 mmol, 0.387 grams | C(C1=CC=CC=C1)ON.Cl
reactant | 4-methoxy-phenylsulfonyl-7-oxabicyclo[2.2.1]hept-5-ene-2-carboxylic acid | COC12CC(C(C=C1)(O2)S(=O)(=O)C2=CC=CC=C2)C(=O)O | C14H14O6S
reactant | 1,3-dicyclohexylcarbodiimide | 1.21 mmol, 0.250 grams | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 2.51 mmol, 0.306 grams | CN(C1=CC=NC=C1)C | C7H10N2
product | 4-Methoxyphenylsulfonyl-7-oxabicyclo[2.2.1]heptane-2-carboxylic acid benzyloxyamide | C(C1=CC=CC=C1)ONC(=O)C1C2(CCC(C1)(O2)OC)S(=O)(=O)C2=CC=CC=C2 | C21H23NO6S
